US05990101
c) 3-hydroxymethyl-2-methylimidazo[5,1-b]thiazole
A 1.91 g portion of sodium boron hydride was added to 30 ml of a methanol solution containing 2.10 g of 3-ethoxycarbonyl-2-methylimidazo[5,1-b]thiazole, and the mixture was then stirred at room temperature for 2 hours. The solvent was evaporated under reduced pressure, and water was added to the residue and the solution was then extracted five times with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the solvent was evaporated under reduced pressure. The resulting residue was purified by a silica gel column chromatograph to obtain 1.4 g of the title compound as a yellow crystal.

reactant | sodium boron hydride | B.[Na]
reactant | 3-ethoxycarbonyl-2-methylimidazo[5,1-b]thiazole | 2.10 g | C(C)OC(=O)C=1N2C(SC1C)=CN=C2 | C9H10N2O2S
solvent | methanol | 30 ml | CO | CH4O
product | 3-hydroxymethyl-2-methylimidazo[5,1-b]thiazole | 1.4 g | OCC=1N2C(SC1C)=CN=C2 | C7H8N2OS
